US04524152
(g) 1-cyano-3-(3,3,3-trifluoro-1,1-dimethylpropyl) guanidine
A mixture of 3,3,3-trifluoro-1,1-dimethylpropylamine hydrochloride (2.67 g, 15 mol), sodium dicyanamide (1.34 g, 15 mmol), and n-butanol (7.5 ml) was sealed in vacuo in a Pyrex ampoule and was heated at 105° for 119 h to give, after solvent removal, a residue (2.87 g) which was crushed and stirred with water (7 ml), then filtered and washed with water, then dried to give a solid (2.57 g) with m.p. 153° (shrinks 145°). The solid was dissolved in methanol (25 ml) then filtered to remove what is presumed to be polymeric dicyanamide (0.06 g). Removal of solvent and drying gave the guanidine (2.35 g) m.p. 153°-4°.

reactant | 3,3,3-trifluoro-1,1-dimethylpropylamine hydrochloride | 15 mol, 2.67 g | Cl.FC(CC(C)(C)N)(F)F
reactant | sodium dicyanamide | 15 mmol, 1.34 g | [N-](C#N)C#N.[Na+]
solvent | n-butanol | 7.5 ml | C(CCC)O | C4H10O
product | 1-cyano-3-(3,3,3-trifluoro-1,1-dimethylpropyl) guanidine | 2.57 g | C(#N)NC(=N)NC(CC(F)(F)F)(C)C | C7H11F3N4
